US05185358
Acetyl chloride (1.04 mL, 14.7 mmol) was added in one portion to a slurry of 3-amino-5-undecyl-1H-1,2,4-triazole (3.50 g, 14.7 mmol) in THF (100 mL). The resulting slurry was stirred (1 hour, 25° C.), then concentrated in vacuo. The residue was suspended in ethyl acetate (300 mL), washed with ice cold water (2×100 mL), washed with ice cold brine (1×100 mL), then dried (MgSO4) and concentrated to yield 3.66 g (89.3%) of 2-acetyl-3-amino-5-undecyl-2H-1,2,4-triazole as a waxy solid.

reactant | Acetyl chloride | 14.7 mmol, 1.04 mL | C(C)(=O)Cl | C2H3ClO
reactant | 3-amino-5-undecyl-1H-1,2,4-triazole | 14.7 mmol, 3.50 g | NC1=NNC(=N1)CCCCCCCCCCC | C13H26N4
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-acetyl-3-amino-5-undecyl-2H-1,2,4-triazole | 3.66 g, 89.3% | C(C)(=O)N1N=C(N=C1N)CCCCCCCCCCC | C15H28N4O
